US04555518
Analogously to L. N. Sedova et al., Zh. Org. Khim. 6, 568 (1970), 275 g of chlorodifluoromethane are passed into a solution of 100 g of o-dihydroxy-benzene, 220 g of sodium hydroxide and 60 g of sodium dithionite in 500 ml of water and 400 ml of dioxane at 50°-55° C. After distillation at 61°-62° C./1.0-1.1 kPa a mixture of 1,2-bis(difluoromethoxy)benzene and 2-difluoroethoxyphenol is obtained, which is separated by chromatography on silica gel with cyclohexane/ethyl acetate (4:1).

reactant | chlorodifluoromethane | 275 g | ClC(F)F | CHClF2
reactant | o-dihydroxy-benzene | 100 g | OC1=C(C=CC=C1)O | C6H6O2
reactant | sodium hydroxide | 220 g | [OH-].[Na+]
reactant | sodium dithionite | 60 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | water | 500 ml | O | H2O
product | 2-difluoroethoxyphenol | FC(COC1=C(C=CC=C1)O)F | C8H8F2O2
